US09062008B2
Step 1: (Z)-3-(1-fluoro-2-phenylvinyl)-5-(4-(isopropylsulfonyl)phenyl)pyrazin-2-amine
tributyl-[(E)-1-fluoro-2-phenyl-vinyl]stannane (190 mg, 0.4621 mmol), 3-bromo-5-(4-isopropylsulfonylphenyl)pyrazin-2-amine (164.6 mg, 0.4621 mmol), palladium (9.835 mg, 0.09242 mmol) and cuprous iodide (83.61 mg, 14.85 μL, 0.4390 mmol) were combined in THF (5 mL) and was stirred at 80° C. for 1 hour under microwave conditions. After this time the mixture was filtered over celite, concentrated in vacuo, and the residue was triturated twice in petroleum ether and dried. This material was purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 μM, 100 Å column, gradient 10%-95% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 16 minutes at 25 mL/min]. The fractions were collected, and freeze-dried to give the title compound (44 mg, 18.92% Yield). H1 NMR (400.0 MHz, DMSO) H NMR (400.0 MHz, DMSO) δ 1.16-1.19 (d, 6H), 3.45 (m, 1H), 6.88 (d, J=40.7 Hz, 1H), 6.96 (s, 2H), 7.35 (t, J=7.4 Hz, 1H), 7.46 (t, J=7.6 Hz, 2H), 7.73 (d, J=7.5 Hz, 2H), 7.92 (d, J=8.5 Hz, 2H), 8.32 (d, J=8.5 Hz, 2H) and 8.82 (s, 1H) ppm. MS (ES+) 398.0

reactant | tributyl-[(E)-1-fluoro-2-phenyl-vinyl]stannane | 0.4621 mmol, 190 mg | C(CCC)[Sn](\C(=C\C1=CC=CC=C1)\F)(CCCC)CCCC
reactant | 3-bromo-5-(4-isopropylsulfonylphenyl)pyrazin-2-amine | 0.4621 mmol, 164.6 mg | BrC=1C(=NC=C(N1)C1=CC=C(C=C1)S(=O)(=O)C(C)C)N | C13H14BrN3O2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | palladium | 0.09242 mmol, 9.835 mg | [Pd] | Pd
product | (Z)-3-(1-fluoro-2-phenylvinyl)-5-(4-(isopropylsulfonyl)phenyl)pyrazin-2-amine | 44 mg, 18.92% Yield | F\C(=C/C1=CC=CC=C1)\C=1C(=NC=C(N1)C1=CC=C(C=C1)S(=O)(=O)C(C)C)N | C21H20FN3O2S
